US05607943
2. Monoethyl tert.butyl malonate-N-[2-(3,4-dimethoxyphenyl)ethyl]-amide
To a solution of 15.35 g of monoethyl tert.butyl malonate in 200 ml of anhydrous CH2Cl2 are stirred, at ambient temperature, 15.88 g of N,N'-carbonyldiimidazole in small batches. After 30 minutes, 14.8 g of 2-(3,4-dimethoxyphenyl)ethylamine are added. After a further 15 hours the solvent is distilled off in vacuo. The residue is mixed with 200 ml of water, acidified with 2N HCl and extracted with ethyl acetate. The organic phase is washed with water and concentrated by evaporation after drying over Na2SO4. The residue is triturated with petroleum ether (40° to 60° C.) and brought to crystallisation.

reactant | monoethyl tert.butyl malonate | 15.35 g | C(CC(=O)OC(C)(C)C)(=O)OCC | C9H16O4
reactant | 2-(3,4-dimethoxyphenyl)ethylamine | 14.8 g | COC=1C=C(C=CC1OC)CCN | C10H15NO2
solvent | CH2Cl2 | 200 ml | C(Cl)Cl | CH2Cl2
product | Monoethyl tert.butyl malonate N-[2-(3,4-dimethoxyphenyl)ethyl]-amide | C(CC(=O)OC(C)(C)C)(=O)OCC.COC=1C=C(C=CC1OC)CC[NH-] | InChI=1S/C10H14NO2.C9H16O4/c1-12-9-4-3-8(5-6-11)7-10(9)13-2;1-5-12-7(10)6-8(11)13-9(2,3)4/h3-4,7,11H,5-6H2,1-2H3;5-6H2,1-4H3/q-1;
